US07488494B2
Imidazole (0.63 g) was added to a suspension of 4′,7-diacetoxy-5-methylisoflavan-4-one (0.50 g, 1.4 mmol) in absolute ethanol (20.0 ml) and the mixture was refluxed for 45 min under argon. The solution was concentrated under reduced pressure and distilled water (10 ml) was added to the residue. The mixture was left overnight in the fridge and the resulting precipitate was filtered, washed with water and dried to yield 4′,7-dihydroxy-5-methylisoflavan-4-one (0.25 g, 66%) as a white powder. 1H NMR (d6-acetone): δ 2.51 (s, 3H, Me), 3.76 (t, 1H, J 5.7 Hz, H3), 4.57 (d, 2H, J 7.1 Hz, H2), 6.26 (d, 1H, J 2.2 Hz, H8), 6.35 (d, 1H, J 2.2 Hz, H5), 6.78 (d, 2H, J 8.7 Hz, ArH), 7.11 (d, 2H, J 8.7 Hz, ArH).

reactant | Imidazole | 0.63 g | N1C=NC=C1 | C3H4N2
reactant | 4′,7-diacetoxy-5-methylisoflavan-4-one | 1.4 mmol, 0.50 g | C(C)(=O)OC1=CC=C(C2COC3=CC(=CC(=C3C2=O)C)OC(C)=O)C=C1 | C20H18O6
solvent | ethanol | 20.0 ml | C(C)O | C2H6O
product | 4′,7-dihydroxy-5-methylisoflavan-4-one | 0.25 g, 66% | OC1=CC=C(C2COC3=CC(=CC(=C3C2=O)C)O)C=C1 | C16H14O4
